US09388174B2
A mixture was prepared by adding 2.10 g of potassium hydrogen carbonate, 44 mg of palladium chloride (II) and 205 mg of a copper bromide (I) dimethylsulfide complex to 2.20 g of 5-bromo-2-fluoronitrobenzene and the resulting mixture was suspended in 20 mL of toluene. Subsequently, a reaction mixture solution prepared by adding 2.05 g of ethyl 4-methyl-1,3-thiazole-5-carboxylate, 92.5 μL of isobutyric acid and 228 mg of di-t-butylcyclohexylphosphine to the resulting suspension was heated at 120° C. for 14 hours under a nitrogen atmosphere. The reaction mixture solution was celite-filtered to remove insoluble matter and water was added to the filtrate, and extraction was performed using ethyl acetate. The organic layer was washed with saline and dried and concentrated under reduced pressure. The resulting crude product was separated and purified by silica gel column chromatography to obtain 2.28 g of ethyl 2-(4-fluoro-3-nitrophenyl)-4-methyl-1,3-thiazole-5-carboxylate.

reactant | potassium hydrogen carbonate | 2.10 g | C(O)([O-])=O.[K+]
reactant | 5-bromo-2-fluoronitrobenzene | 2.20 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | ethyl 4-methyl-1,3-thiazole-5-carboxylate | 2.05 g | CC=1N=CSC1C(=O)OCC | C7H9NO2S
reactant | isobutyric acid | 92.5 μL | C(C(C)C)(=O)O | C4H8O2
reactant | di-t-butylcyclohexylphosphine | 228 mg | C(C)(C)(C)P(C1CCCCC1)C(C)(C)C | C14H29P
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium chloride (II) | 44 mg | Cl[Pd]Cl
catalyst | copper bromide | 205 mg | [Cu](Br)Br
product | ethyl 2-(4-fluoro-3-nitrophenyl)-4-methyl-1,3-thiazole-5-carboxylate | 2.28 g | FC1=C(C=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC)[N+](=O)[O-] | C13H11FN2O4S
